US07504508B2
N-(4-chlorophenyl)-N-{(2S,4R)-2-methyl-1-[(2-methylpyrimidin-5-yl)carbonyl]-1,2,3,4-tetrahydroquinolin-4-yl}acetamide was prepared following general procedure H, substituting 2-methylpyrimidine-5-carbonyl chloride for 6-trifluoromethyl nicotinyl chloride. (2-methylpyrimidine-5-carbonyl chloride was prepared in four steps. To a solution of 3,3-dimethoxypropionate in ethylene glycol dimethyl ether was added sodium hydride at 0° C., then methyl formate. The reaction mixture was warmed up to 50° C. for 30 m. and then stirred at room temperature for 20 h. Anhydrous diethyl ether was added and the precipitate was filtered to give sodium 2-(dimethoxymethyl)-3-methoxy-3-oxoprop-1-en-1-olate. To a solution of acetamide hydrochloride in dimethylformamide was added preformed sodium 2-(dimethoxymethyl)-3-methoxy-3-oxoprop-1-en-1-olate. Reaction mixture was heated to 100° C. for 1 h. to give methyl 2-methylpyrimidine-5-carboxylate. Hydrolysis of the ester with sodium hydroxide gave 2-methylpyrimidine-5-carboxylic acid. Subsequent treatment of this carboxylic acid with oxalyl chloride and catalytic DMF afforded 2-methylpyrimidine-5-carbonyl chloride in decent yield). The rest of the procedures were followed as indicated in general procedure H to afford N-(4-chlorophenyl)-N-{(2S,4R)-2-methyl-1-[(2-methylpyrimidin-5-yl)carbonyl]-1,2,3,4-tetrahydroquinolin-4-yl}acetamide.

reactant | acetamide hydrochloride | Cl.C(C)(=O)N
reactant | sodium 2-(dimethoxymethyl)-3-methoxy-3-oxoprop-1-en-1-olate | COC(C(=C[O-])C(=O)OC)OC.[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | methyl 2-methylpyrimidine-5-carboxylate | CC1=NC=C(C=N1)C(=O)OC | C7H8N2O2
